US07732613B2
A) 1-(4-(Benzyloxy)-5-methoxy-2-nitrophenyl)ethanone
To a solution of 1-(4-(benzyloxy)-3-methoxyphenyl)ethanone (5.0 g, 19.5 mmol, Alfa Aesar Company) in dichloromethane (75 mL) at ice bath temp. was added slowly HNO3 (1.5 mL of 90% nitric acid) followed by conc H2SO4 (1.8 mL of 96.2% acid) at 0° C. with stirring. After 1 h at 0° C. additional HNO3 (0.5 mL) was added and the reaction mixture was stirred for 20 minutes at 0° C. To the reaction mixture was added dichloromethane (25 mL) and the mixture was poured into water (60 mL), the organic layer was separated which was washed with water (2×60 mL) followed by aq NaHCO3 (2×60 mL), dried over Na2SO4 and concentrated in vacuo. The residue was mixed with DMF (˜3 mL) and ether (70 mL), stirred for a while and the solid was filtered, washed with a small amount of ether and dried to obtain the desired product (3.6 g, 61%) as a yellow solid. 1H NMR (CDCl3) δ 7.64 (s, 1H), 7.42-7.35 (m, 5H), 6.76 (s, 1H), 5.21 (s, 2H), 3.93 (s, 3H), 2.48 (s, 3H).

reactant | 1-(4-(benzyloxy)-3-methoxyphenyl)ethanone | 19.5 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)OC | C16H16O3
reactant | HNO3 | 1.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 1.8 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 0.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 60 mL | O | H2O
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-(4-(Benzyloxy)-5-methoxy-2-nitrophenyl)ethanone | 3.6 g, 61% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC)C(C)=O)[N+](=O)[O-] | C16H15NO5
